US05428038
(±)-7-methoxy-6-[2-hydroxy-3-(4-phenyl-1-piperazinyl)propoxy]-2H-1-benzopyran-2-one.
Method C (5 d at 40° C.); starting materials: 7-methoxy-6-(oxiranylmethoxy)-2H-1-benzopyran-2-one and 1-phenylpiperazine; yield 99%; fusion point 160°-162° C. (from isopropanol and ethanol). Hydrochloride: method F; yield 78%; fusion point 222°-225° C. (from isopropanol, ethanol and methanol).

reactant | 7-methoxy-6-(oxiranylmethoxy)-2H-1-benzopyran-2-one | COC1=CC2=C(C=CC(O2)=O)C=C1OCC1OC1 | C13H12O5
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | Hydrochloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
solvent | isopropanol | C(C)(C)O | C3H8O
product | (±)-7-methoxy-6-[2-hydroxy-3-(4-phenyl-1-piperazinyl)propoxy]-2H-1-benzopyran-2-one | yield 99% | COC1=CC2=C(C=CC(O2)=O)C=C1OCC(CN1CCN(CC1)C1=CC=CC=C1)O | C23H26N2O5
